US06545161B2
Preparation of 3-[4-chloro-2-(2-cyclopropanecarbonyldiazanyl)-6-fluoro-3-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 15-2)
3-[4-chloro-2-diazanyl-6-fluoro-3-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (0.15 g, 0.4 mmol) was dissolved in dioxane (10 ml) and added with cyclopropanecarbonyl chloride (0.04 g, 0.4 mmol) and triethylamine (0.04 g, 0.4 mmol). After stirred for 1 hr, the mixture was poured into water (15 ml) and extracted with ethyl acetate (10 ml×3). Organic phase was washed with brine and dried over Na2SO4. Final purification involved column chromatography (silica gel, ether). Yield: 0.15 g, 0.34 mmol.

reactant | 3-[4-chloro-2-diazanyl-6-fluoro-3-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.4 mmol, 0.15 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NN)OC | C13H11ClF4N4O3
reactant | cyclopropanecarbonyl chloride | 0.4 mmol, 0.04 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | 0.4 mmol, 0.04 g | C(C)N(CC)CC | C6H15N
reactant | water | 15 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[4-chloro-2-(2-cyclopropanecarbonyldiazanyl)-6-fluoro-3-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NNC(=O)C1CC1)OC | C17H15ClF4N4O4
